US03951982
From 11.7 g. of 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile and 18.4 g. of N-cyclohexylpiperazine in 150 ml. of dimethyl sulfoxide, there is obtained 6-[p-(4-cyclohexyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile; m.p. 306°-312° (dec.).

reactant | 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile | FC1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C12H7FN2O
reactant | N-cyclohexylpiperazine | C1(CCCCC1)N1CCNCC1 | C10H20N2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 6-[p-(4-cyclohexyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile | C1(CCCCC1)N1CCN(CC1)C1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C22H26N4O
